data/polar.json
{"reaction_name": "Meisenheimer-complex substitution", "rsmi": "[N+:2]([c:4]1[cH:10][c:6]([F:14])[cH:11][c:5]([N+:3](=[O:9])[O-:13])[cH:15]1)(=[O:8])[O-:12].[O-:1][CH3:7]>>[F-:14].[O:1]([c:6]1[cH:10][c:4]([N+:2](=[O:8])[O-:12])[cH:15][c:5]([N+:3](=[O:9])[O-:13])[cH:11]1)[CH3:7]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [6, 14], [14]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH:1]([C:16](=[O:17])[c:20]1[cH:6][cH:31][c:19]([N:30]([CH3:21])[CH3:22])[cH:32][cH:7]1)=[S:33]([CH3:12])[CH3:13].[O:2]=[S:25](=[O:3])([N:23]([F:18])[S:24](=[O:4])(=[O:5])[c:34]1[cH:8][cH:26][cH:14][cH:29][cH:11]1)[c:35]1[cH:9][cH:27][cH:15][cH:28][cH:10]1>>[CH:1]([C:16](=[O:17])[c:20]1[cH:6][cH:31][c:19]([N:30]([CH3:21])[CH3:22])[cH:32][cH:7]1)([F:18])[S+:33]([CH3:12])[CH3:13].[O:2]=[S:25](=[O:3])([N-:23][S:24](=[O:4])(=[O:5])[c:34]1[cH:8][cH:26][cH:14][cH:29][cH:11]1)[c:35]1[cH:9][cH:27][cH:15][cH:28][cH:10]1", "epd": [["Pi-/Sigma+", [1, 33], [1, 18]], ["Sigma-/LP+", [18, 23], [23]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:11]1[N+:18](=[CH:5][CH:31]=[CH:12][c:24]2[cH:6][cH:19][cH:4][cH:20][cH:7]2)[CH:16]([CH2:32][c:28]2[cH:34][cH:14][cH:21][cH:15][cH:35]2)[C:23](=[O:8])[N:29]1[CH3:22])([CH3:25])([CH3:26])[CH3:27].[cH:2]1[cH:9][c:10]2[c:36]([cH:17][cH:37]1)[CH:33]=[CH:3][CH:30]2[Li:13]>>[C:1]([CH:11]1[N:18]([CH:5]=[CH:31][CH:12]([c:24]2[cH:6][cH:19][cH:4][cH:20][cH:7]2)[CH:30]2[CH:3]=[CH:33][c:36]3[c:10]2[cH:9][cH:2][cH:37][cH:17]3)[CH:16]([CH2:32][c:28]2[cH:34][cH:14][cH:21][cH:15][cH:35]2)[C:23](=[O:8])[N:29]1[CH3:22])([CH3:25])([CH3:26])[CH3:27].[Li+:13]", "epd": [["Sigma-/Sigma+", [30, 13], [30, 12]], ["Pi-/Pi+", [12, 31], [31, 5]], ["Pi-/LP+", [5, 18], [18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:4]([CH:11]1[N+:20](=[CH:7][CH:37]=[CH:12][c:29]2[cH:8][cH:22][cH:6][cH:23][cH:9]2)[CH:19]([CH2:38][c:34]2[cH:39][cH:14][cH:25][cH:15][cH:40]2)[C:27](=[O:10])[N:35]1[CH3:26])([CH3:30])([CH3:31])[CH3:32].[c:1]12[cH:21][c:41]([B-:36]([F:16])([F:17])[F:18])[n:13]([CH3:2])[c:28]1[cH:33][cH:5][cH:3][cH:24]2>>[c:1]12[cH:24][cH:3][cH:5][cH:33][c:28]1[N+:13]([CH3:2])=[C:41]([B-:36]([F:16])([F:17])[F:18])[CH:21]2[CH:12]([c:29]1[cH:8][cH:22][cH:6][cH:23][cH:9]1)[CH:37]=[CH:7][N:20]1[CH:11]([C:4]([CH3:30])([CH3:31])[CH3:32])[N:35]([CH3:26])[C:27](=[O:10])[CH:19]1[CH2:38][c:34]1[cH:39][cH:14][cH:25][cH:15][cH:40]1", "epd": [["LP-/Pi+", [13], [41, 13]], ["Pi-/Sigma+", [21, 41], [21, 12]], ["Pi-/Pi+", [12, 37], [37, 7]], ["Pi-/LP+", [7, 20], [20]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:6](=[O:2])([C:8]([F:39])([F:40])[F:41])[c:33]1[cH:25][c:7]2[n+:14]([O-:5])[o:38][n:18][c:45]2[c:29]([N+:19]([O-:16])=[O:27])[cH:36]1.[cH:3]1[cH:9][c:37]([B-:42]2([c:17]3[s:24][c:15]([CH3:28])[cH:20][cH:30]3)[O:12][c:43]3[cH:32][cH:35][cH:34][cH:31][c:44]3[O:13]2)[cH:10][cH:4][c:11]1[C:26]([F:21])([F:22])[F:23]>>[O:1]=[S:6](=[O:2])([C:8]([F:39])([F:40])[F:41])[C:33]1=[CH:36][C:29](=[N+:19]([O-:16])[O-:27])[c:45]2[c:7]([n+:14]([O-:5])[o:38][n:18]2)[CH:25]1[c:17]1[s:24][c:15]([CH3:28])[cH:20][cH:30]1.[cH:3]1[cH:9][c:37](-[b-:42]2[o+:12][c:43]3[cH:32][cH:35][cH:34][cH:31][c:44]3[o:13]2)[cH:10][cH:4][c:11]1[C:26]([F:21])([F:22])[F:23]", "epd": [["LP-/Pi+", [12], [42, 12]], ["Sigma-/Sigma+", [17, 42], [17, 25]], ["Pi-/Pi+", [25, 33], [33, 36]], ["Pi-/Pi+", [36, 29], [29, 19]], ["Pi-/LP+", [19, 27], [27]]]}
{"reaction_name": "TiCl4-mediated aldol addition", "rsmi": "[CH2-:1][C:11]([CH3:2])=[O:7].[Cl:3][Ti:8]([Cl:4])([Cl:5])[Cl:6].[O:9]=[CH:12][CH3:10]>>[CH2:1]([C:11]([CH3:2])=[O:7])[CH:12]([O-:9])[CH3:10].[Cl:3][Ti:8]([Cl:4])([Cl:5])[Cl:6]", "epd": [["LP-/Sigma+", [1], [1, 12]], ["Pi-/LP+", [9, 12], [9]]]}
{"reaction_name": "Sulfone elimination", "rsmi": "[CH3:2][CH:8]([CH:9]([CH3:5])[H:11])[S:10]([CH3:4])(=[O:6])=[O:7].[O-:1][CH3:3]>>[CH3:2][CH:8]=[CH:9][CH3:5].[CH3:4][S-:10](=[O:6])=[O:7].[O:1]([CH3:3])[H:11]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Sigma-/LP+", [9, 11], [9]], ["LP-/Pi+", [9], [8, 9]], ["Sigma-/LP+", [8, 10], [10]]]}
{"reaction_name": "Epoxonium rearrangement", "rsmi": "[CH2:1]1[O+:2]([CH3:3])[CH:4]1[CH3:5]>>[CH2:1]([O:2][CH3:3])[CH+:4][CH3:5]", "epd": [["Sigma-/LP+", [2, 4], [2]]]}
